US07238716B2
To a mixture of 2-[3-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]-2-pyridyl]acetonitrile (0.55 g), tetrahydrofuran (1 mL) and ethanol (4 mL) was added a 2N aqueous sodium hydroxide solution (4 mL) and the mixture was stirred with heating under reflux for 12 hrs. 1N Hydrochloric acid (8 mL) and water were added to the reaction mixture, and the precipitated solid was collected by filtration and dried with air to give crystals (0.35 g, 47%) of 2-[3-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]-2-pyridyl]acetic acid. Recrystallization from tetrahydrofuran-hexane gave colorless prism crystals. melting point: 115-116° C. (dec.)

reactant | 2-[3-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]-2-pyridyl]acetonitrile | 0.55 g | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(COC=2C(=NC=CC2)CC#N)C=C1 | C25H21N3O3
reactant | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 2N, 4 mL | [OH-].[Na+]
reactant | Hydrochloric acid | 1N, 8 mL | Cl | ClH
reactant | water | O | H2O
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | 2-[3-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]-2-pyridyl]acetic acid | 0.35 g, 47% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(COC=2C(=NC=CC2)CC(=O)O)C=C1 | C25H22N2O5
